US04608438
30 g of imidazole was dissolved in 80 ml of N,N-dimethylformamide. To this solution, 30 g of 3-bromo-2-heptanone was gradually added under stirring, and stirred at a temperature of from 50° to 60° C. for 4 hours. Then, the mixture was poured into water and extracted with chloroform. The extraction solution was treated by a usual manner, and the obtained oily product was purified by distillation, whereby 3-(imidazole-1-yl)-2-heptanone was obtained. The boiling point was 116°-119° C./2 mmHg.

reactant | imidazole | 30 g | N1C=NC=C1 | C3H4N2
reactant | 3-bromo-2-heptanone | 30 g | BrC(C(C)=O)CCCC | C7H13BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-(imidazole-1-yl)-2-heptanone | N1(C=NC=C1)C(C(C)=O)CCCC | C10H16N2O
